US06858638B2
N-[5-(2-Methylsulfonylbenzenesulfonylamino)-1H-indazol-3-yl]benzamide can be obtained as described in Example 28 from 0.5 g of N-(3-amino-1H-indazol-5-yl)-2-methylsulfonylbenzenesulfonamide, 3 ml of pyridine and 0.158 ml of benzoyl chloride. 435 mg of N-[5-(2-methylsulfonylbenzenesulfonylamino)-1H-indazol-3-yl)benzamide are thus obtained in the form of a pink solid which decomposes at approximately 200° C. (analysis C21H18N4O5S2.0.22CH2Cl2 % calculated C, 53.60; H, 3.86; N, 11.91; O, 17.00; S, 13.63. % found C, 53.59; H, 3.89; N, 12.10; S, 13.53).

reactant | N-(3-amino-1H-indazol-5-yl)-2-methylsulfonylbenzenesulfonamide | 0.5 g | NC1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C14H14N4O4S2
reactant | benzoyl chloride | 0.158 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | N-[5-(2-methylsulfonylbenzenesulfonylamino)-1H-indazol-3-yl)benzamide | 435 mg | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)NC=1C=C2C(=NNC2=CC1)NC(C1=CC=CC=C1)=O | C21H18N4O5S2
